US07781478B2
To a solution of 6-bromo-1-cyclobutyl-1H-indole-3-carbonitrile (1.38 g, 5.0 mmol), and triisopropylborate (1.37 mL, 6.0 mmol) in THF (15.0 mL) at −78° C. was added LDA (1.5M mono THF in cyclohexane, 3.83 mL, 5.75 mmol) with stirring. The mixture was stirred at −78° C. for 10 min and at room temperature for 30 min followed by addition of (4-iodophenyl)-carbamic acid tert-butyl ester (1.75 g, 5.5 mmol) and PdCl2(dppf) (0.37 g, 0.5 mmol). The reaction mixture was cooled to −78° C., flushed with nitrogen and DMF (30 mL) and aq. K2CO3 (2.0M, 7.5 mL, 15.0 mmol) added. The mixture was stirred at −78° C. for 20 min, room temperature overnight and poured into ice water (200 mL). The precipitate was filtered, washed with water and purified on silica gel (hexanes/EtOAc, 9:1 to 8:2) to give [4-(6-bromo-3-cyano-1-cyclobutyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester as a solid (1.23 g, 53%).

reactant | 6-bromo-1-cyclobutyl-1H-indole-3-carbonitrile | 5.0 mmol, 1.38 g | BrC1=CC=C2C(=CN(C2=C1)C1CCC1)C#N | C13H11BrN2
reactant | triisopropylborate | 6.0 mmol, 1.37 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | 5.75 mmol, 1.5M, 3.83 mL | [Li+].CC(C)[N-]C(C)C
reactant | (4-iodophenyl)-carbamic acid tert-butyl ester | 5.5 mmol, 1.75 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)I)=O | C11H14INO2
reactant | K2CO3 | 15.0 mmol, 2.0M, 7.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.5 mmol, 0.37 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [4-(6-bromo-3-cyano-1-cyclobutyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester | 1.23 g, 53% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)Br)C1CCC1)=O | C24H24BrN3O2
